US09029405B2
Step 1: 3-(Bromomethyl)-5-fluorobenzonitrile
3-Fluoro-5-methylbenzonitrile (Hognda Trading; 100 g, 0.74 mol) was taken in acetonitrile (1 L) at 25° C. under nitrogen atmosphere. N-Bromosuccinimide (105 g, 0.59 mol) and AIBN (2.4 g, 0.014 mol) were added and the reaction mixture was heated at 70° C. for 1 h 20 minutes. The reaction mixture was cooled to 25° C. and concentrated. The residue was diluted, cooled to 0-5° C. and stirred for 15 minutes at the same temperature. The precipitated succinimide was filtered and the filtrate was concentrated to get crude product as yellow oil (90 g). It was taken in petroleum ether (200 mL) and cooled to −20° C. stirred for 30 minutes. The precipitated solids were filtered and dried to get the title product as white solid. 1H NMR (DMSO-d6; 400 MHz): δ 7.83 (m, 2H), 7.73 (m, 1H), 4.72 (s, 2H). HPLC (Method A) Rt: 4.17 min (Purity: 99.4%).

reactant | 3-Fluoro-5-methylbenzonitrile | 0.74 mol, 100 g | FC=1C=C(C#N)C=C(C1)C | C8H6FN
reactant | N-Bromosuccinimide | 0.59 mol, 105 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.014 mol, 2.4 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | 3-(Bromomethyl)-5-fluorobenzonitrile | BrCC=1C=C(C#N)C=C(C1)F | C8H5BrFN
